US04255331
17,5 g of 9β,11β-epoxy-3,17,21-triacetoxy-pregna 3,5-diene-20-one, prepared as described in Example I were dissolved in a mixture of 200 ml dioxane, 90 ml water, 10 ml pyridine, with the temperature being maintained at -10° C. Next a total quantity of approximately 4 g perchlorylfluoride was introduced at this temperature over a period of 4 hours. The further procedure was as described in Example IX; 16 g 9β,11β-epoxy-6α-fluoro-17α,21-diacetoxy-4-pregnen-3,20-dione were obtained.

reactant | 9β,11β-epoxy-3,17,21-triacetoxy-pregna 3,5-diene-20-one | 17,5 g | O1[C@]23[C@]4(CCC(=CC4=CC[C@H]2[C@@H]2CC[C@](C(COC(C)=O)=O)([C@]2(C[C@@H]31)C)OC(C)=O)OC(C)=O)C | C27H34O8
reactant | perchlorylfluoride | approximately 4 g | Cl(=O)(=O)(=O)F | ClFO3
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 90 ml | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 9β,11β-epoxy-6α-fluoro-17α,21-diacetoxy-4-pregnen-3,20-dione | 16 g | O1[C@]23[C@]4(CCC(C=C4[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(C)=O)=O)([C@]2(C[C@@H]31)C)OC(C)=O)F)=O)C | C25H31FO7
